US09227971B2
Step 1: Preparation of benzyl 3-oxopyrazolidine-1-carboxylate
To a suspension of pyrazolidin-3-one hydrogen chloride (5.00 g, 40.8 mmol) in DCM (120 mL) at 0° C. was added DIEA (2.5 eq), followed by CbzCl (1.15 eq). The resulting clear solution was warmed to it and stirred 3 h. The reaction mixture was washed with brine. The aqueous layer was separated and back-extracted with DCM (×2). The combined organic layers were dried over Na2SO4, and concentrated. The crude product was purified by a SiO2 column (0-100% EtOAc/Hexanes, Rf=0.35 in 100% EtOAc) to afford the desired product as a white solid (5.31 g).

reactant | pyrazolidin-3-one hydrogen chloride | 40.8 mmol, 5.00 g | Cl.N1NC(CC1)=O
reactant | DIEA | 2.5 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | CbzCl | 1.15 eq | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | DCM | 120 mL | C(Cl)Cl | CH2Cl2
product | benzyl 3-oxopyrazolidine-1-carboxylate | 5.31 g | O=C1NN(CC1)C(=O)OCC1=CC=CC=C1 | C11H12N2O3
